US06399597B1
Step 1: 3-Bromo-1(1,4-diazoniabicyclo[2.2.2]oct-1-yl)-butane Bromide.
1,3-Dibromobutane (2.15 g, 1.2 ml, 10 mmol) was dissolved in acetonitrile (2 ml). DABCO (1.23 g, 11 mmol) was added. The reaction mixture was heated at 65° under nitrogen for 2 hr. The acetonitrile was removed under reduced pressure to give a white solid as the product.

reactant | 1,3-Dibromobutane | 10 mmol, 1.2 ml, 2.15 g | BrCCC(C)Br | C4H8Br2
reactant | DABCO | 11 mmol, 1.23 g | C1CN2CCN1CC2 | C6H12N2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 3-Bromo-1(1,4-diazoniabicyclo[2.2.2]oct-1-yl)-butane Bromide | [Br-].BrC(CC[N+]12CC[NH+](CC1)CC2)C.[Br-] | InChI=1S/C10H20BrN2.2BrH/c1-10(11)2-6-13-7-3-12(4-8-13)5-9-13;;/h10H,2-9H2,1H3;2*1H/q+1;;/p-1
